US06693123B2
N-[4-(2-(4-Propyloxypyridin-3-yl)ethenyl)-2-(2-methylphenyl)benzoyl]methionine Sodium Salt
N-[4-(2-(4-chloropyridin-3-yl)ethenyl)-2-(2-methylphenyl)benzoyl]methionine methyl ester, prepared as in Example 1040, (28 mg, 0.06 mmol) was dissolved in DMF (1 mL) with n-propanol (0.1 mL) and treated with NaH (60% in mineral oil, 6.8 mg, 0.17 mmol). After stirring 18 hours at ambient temperature, the reaction was evaporated and lyophilized from water to provide 29 mg of the title compound. MS m/e 505 (M+H)+. 1H NMR (d6-DMSO, 300 MHz) δ 1.03 (m, 3H), 1.24 (m, 2H), 1.6 (m, 3H), 2.0 (m, 7H), 3.71 (m, 2H), 6.94 (m, 1H), 7.3 (m, 9H), 7.74 (m, 1H), 8.33 (m, 1H), 8.52 (m, 1H), 8.67 (s, 1H).

reactant | N-[4-(2-(4-chloropyridin-3-yl)ethenyl)-2-(2-methylphenyl)benzoyl]methionine methyl ester | COC([C@@H](NC(C1=C(C=C(C=C1)C=CC=1C=NC=CC1Cl)C1=C(C=CC=C1)C)=O)CCSC)=O | C27H27ClN2O3S
reactant | NaH | 0.17 mmol, 6.8 mg | [H-].[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | n-propanol | 0.1 mL | C(CC)O | C3H8O
product | N-[4-(2-(4-Propyloxypyridin-3-yl)ethenyl)-2-(2-methylphenyl)benzoyl]methionine Sodium Salt | 29 mg | [Na+].C(CC)OC1=C(C=NC=C1)C=CC1=CC(=C(C(=O)N[C@@H](CCSC)C(=O)[O-])C=C1)C1=C(C=CC=C1)C | InChI=1S/C29H32N2O4S.Na/c1-4-16-35-27-13-15-30-19-22(27)11-9-21-10-12-24(25(18-21)23-8-6-5-7-20(23)2)28(32)31-26(29(33)34)14-17-36-3;/h5-13,15,18-19,26H,4,14,16-17H2,1-3H3,(H,31,32)(H,33,34);/q;+1/p-1/t26-;/m0./s1
